US08604069B2
(A-27-5) tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-formylvalerate
tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-methoxymethylcarbamoylvalerate (4.61 g) and tetrahydrofuran (60 mL) were mixed. To the mixture was added dropwise diisobutylaluminum hydride (1.0 M in toluene) (13.1 mL) at −78° C. The mixture was stirred at −78° C. for 1.5 hr. To the mixture was added dropwise acetic acid (0.515 mL). After an addition of aqueous Rochelle salt at −20° C., the mixture was extracted with ethyl acetate. The organic layer washed with water, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/25) to give the title compound (2.60 g).

reactant | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-methoxymethylcarbamoylvalerate | 4.61 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C(NCOC)=O | C28H41NO5Si
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | diisobutylaluminum hydride | 1.0 M, 13.1 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | acetic acid | 0.515 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-formylvalerate | 2.60 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C=O | C26H36O4Si
